US04288437
(E)-2-{[(2-Propenyl)amino]phenylmethylene}-benzo[b]thiophen-3(2H)-one
Prepared as in Example 1 from 2-benzoyl-benzo[b]thiophen-3-ol, phosphorus(V) chloride and a solution of one part by volume of allylamine in 2 parts by volume of water with a yield of 43% of theory. M.p. 104°-106° C. (ethyl acetate).

reactant | 2-benzoyl-benzo[b]thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC=C2)O | C15H10O2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | allylamine | C(C=C)N | C3H7N
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-{[(2-Propenyl)amino]phenylmethylene}-benzo[b]thiophen-3(2H)-one | yield of 43% | C(C=C)N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C18H15NOS
